Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Chest pressure
 
Major Surgical or Invasive Procedure:
___ Coronary Artery Bypass Graft x 1 (Left internal mammary 
artery to left anterior descending), Aortic Valve Replacement 
(29mm ___ mosaic porcine), Ascending aorta and hemiarch 
replacement (32mm Gelweave graft)
 
History of Present Illness:
This is a ___ y.o. male with HIV/AIDS, ___ disease, and a 
family history of CAD and arrhythmias, who recently developed 
exertional chest pressure. The patient reports ___ months ago he 
began experiencing mild chest pressure ___ minutes into a 
medium pace of cycling or hiking.  He denies any other 
associated symptoms. The pressure would diminish somewhat if he 
slowed his pace down, but would require him to cease the 
activity for it to completely resolve. He is followed closely by 
his primary care physician for his HIV/AIDS, the patient is in 
good compliance with his medication regime, and is under "good 
control" per last HIV parameters. He recently had been 
complaining of some generalized muscle discomfort in his 
shoulders and thighs. Recent CPK/LFT testing is mildly elevated. 
The patient reports the muscle aches in his shoulders and thighs 
have resolved, however he did wake up with a back ache. No 
changes have made to his medication regime other that aspirin 
initiation following his stress test. 
 
Past Medical History:
HIV 
CMV 
Kaposi's Sarcoma s/p excision 
PCP ___ 
___ Disease 
Bipolar disorder 
Depression s/p ECT c/b slight memory loss 
s/p Tonsillectomy 
 
Social History:
___
Family History:
 Father with MI and died at ___.  Mother with a pacemaker.
 
Physical Exam:
Pulse: Resp:20  O2 sat:97% RA 
B/P  Right:142/85    Left:138/84 
Height:6'1"     Weight:188#

General:AAO x 3 in NAD
Skin: Dry [x] intact [x] [x] Right arm tatoo
HEENT: PERRLA [x] EOMI [x] Exopthalmous
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur I-II/VI SEM
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema Varicosities:
None [x]
Neuro: Grossly intact
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:2+   Left:2+
___           Right:2+   Left:2+
Radial       Right:2+   Left:2+

Carotid Bruit        Right:none    Left:none
 
Pertinent Results:
___ Echo: Pre-bypass: No spontaneous echo contrast is seen 
in the body of the left atrium or left atrial appendage. No 
mass/thrombus is seen in the left atrium or left atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. There is moderate symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal for the 
patient's body size. Overall left ventricular systolic function 
is mildly depressed (LVEF= 45 %). Right ventricular chamber size 
is normal. with borderline normal free wall function. The 
ascending aorta is moderately dilated. The aortic arch is mildly 
dilated. The descending thoracic aorta is mildly dilated. There 
are simple atheroma in the descending thoracic aorta. The number 
of aortic valve leaflets could not be determine. The aortic 
valve leaflets are severely thickened/deformed. There is mild to 
moderate aortic stenosis Mild (1+) aortic regurgitation is seen. 
Mild (1+) mitral regurgitation is seen. There is no pericardial 
effusion. Post-bypass: The patient is not receiving inotropic 
support post-CPB. There is a well-seated prosthetic valve with 
good leaflet excursion in the aortic position. There is no 
paravalvular or transprosthetic regurgitation. There is a 
minimal transprosthetic gradient of 4 mm Hg. Biventricular 
systolic function is consistent with pre-bypass findings. All 
other findings consistent with pre-bypass findings. The aortic 
graft seems well and other thoracic aorta is intact. All 
findings communicated to the surgeon.
___ 05:25AM BLOOD Hct-25.8*
___ 02:07PM BLOOD WBC-11.9*# RBC-3.99* Hgb-12.9* Hct-39.0* 
MCV-98 MCH-32.3* MCHC-33.2 RDW-14.2 Plt ___
___ 04:44PM BLOOD ___ PTT-32.4 ___
___ 01:35PM BLOOD ___ PTT-35.4* ___
___ 07:50AM BLOOD Glucose-117* UreaN-15 Creat-1.0 Na-136 
K-4.0 Cl-101 HCO3-30 AnGap-9
___ 02:03AM BLOOD Glucose-94 UreaN-9 Creat-0.8 Na-141 K-4.6 
Cl-112* HCO3-24 AnGap-___ ___ was taken to the operating room where he 
underwent a coronary artery bypass x 1 (Left internal Mammary 
artery grafted to the left anterior descending artery), aortic 
valve replacement (#29mm ___ Mosaic Porcine), and 
ascending aorta/hemi-arch replacement (#32mm Gelweave). Please 
see ___ report for surgical details. He was 
intubated, sedated, in critical but stable condition, and was 
transferred to the CVICU for invasive monitoring. On post-op day 
one he was weaned from sedation, awoke neurologically intact and 
extubated without difficulty. All lines and drains were 
discontinued in a timely fashion. 
Beta-blocker/Statin/aspirin/diuresis was initiated. On POD#2 he 
continued to progress and was transferred to the step down unit 
for further monitoring. He worked with physical therapy during 
post-op period for strength and mobility. The remainder of his 
postoperative course was essentially uneventful. On POD# 5 he 
was cleared by Dr. ___ discharge to home. All follow-up 
appointments were advised.

 
Medications on Admission:
Acyclovir 400 mg", Citalopram 10 mg', Cyclosporine [Restasis] 
0.05 % Dropperette 1 drop twice daily in each eye, Prezista 600 
mg" with one capsule of ritonavir (Norvir) Flonase 50 mcg Spray 
2 spray intranasally only using twice a month and prn, 
Lamivudine 150 mg", Lamictal 100 mg Tablet", Levothyroxine 250 
mcg Tablet' q ___. On ___ & ___ take only 125 
mcg, Lithium 450 mg Tablet SR", Omega-3 Acid 2 gm", Opium 
Tincture 10 mg/mL 5 ml by mouth once a day, Oxandrolone 5 mg 
Tablet", Pravastatin 20 mg Tablet', Propranolol 60 mg SA', 
Seroquel 75 mg' qhs and 25 mg' PRN, Raltegravir 400 mg" 
Ritonavir 100 mg" with darunavir. Viagra 100 mg' PRN, AndroGel 
1.25 gram per Actuation (1%) Gel in Metered-dose Pump: two pumps 
to skin daily, Acetylcysteine [NAC] 600 mg Capsule three times a 
___, Ascorbic Acid ] 500 mg Tablet three times 
per week (___), Aspirin 81 mg', Beta 
Carotene 25,000 unit three times per week, 
Calcium-Magnesium-Zinc 1 Tablet(s) by mouth two times per week 
___ and ___), Calcium 500mg, Magnesium 200mg, Zinc 2.5mg, 
Chromium Picolinate 200 mcg Tablet 1 Tablet(s) by mouth four 
times per week (___), Coenzyme Q10 30 mg 1
Capsule(s) by mouth three times per week (___), 
Cyanocobalamin 500 mcg Tablet three days per week 
(___) taken 1-hr before breakfast, Ergocalciferol 
1,000 unit Capsule', Flaxseed Oil 1,000 mg Capsule twice a week 
(tue and ___, Folic Acid 0.4 mg Tablet four times a 
week(mon,wed, ___, Loperamide 2 mg Tablet ___ Tablet(s) 
by mouth" PRN, ___ B-50 high potency 2 per week (___), 
Multivitamin, Siberian Ginseng + Ginkgo 500mg, Vitamin E 400 
unit 1 Capsule(s) by mouth three times a week (tue,thurs, sat)
 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
2. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
3. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
5. Quetiapine 25 mg Tablet Sig: Three (3) Tablet PO QHS (once a 
day (at bedtime)).
Disp:*60 Tablet(s)* Refills:*2*
6. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
7. Lamivudine 150 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
8. Darunavir 600 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
9. Raltegravir 400 mg Tablet Sig: One (1) Tablet PO bid ().
Disp:*60 Tablet(s)* Refills:*2*
10. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO Q 
SAT/SUN ().
Disp:*60 Tablet(s)* Refills:*2*
11. Levothyroxine 125 mcg Tablet Sig: Two (2) Tablet PO M TO FR 
().
Disp:*60 Tablet(s)* Refills:*2*
12. Lamotrigine 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
13. Ritonavir 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
14. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).
Disp:*120 Capsule(s)* Refills:*2*
15. Lithium Carbonate 300 mg Tablet Sustained Release Sig: 1.5 
Tablet Sustained Releases PO BID (2 times a day).
Disp:*90 Tablet Sustained Release(s)* Refills:*2*
16. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*45 Tablet(s)* Refills:*0*
17. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO Q12H (every 12 
hours) for 5 days.
Disp:*10 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*
18. Lasix 20 mg Tablet Sig: One (1) Tablet PO twice a day for 5 
days.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease, Aortic Stenosis, Ascending Aortic 
Aneurysm s/p Coronary Artery Bypass Graft x 1, Aortic Valve 
Replacement, Ascending aorta and hemiarch replacement 
Past Medical History:
HIV 
CMV 
Kaposi's Sarcoma s/p excision 
PCP ___ 
___ Disease 
Bipolar disorder 
Depression s/p ECT c/b slight memoray loss 
s/p Tonsillectomy 
 
Discharge Condition:
Good
 
Discharge Instructions:
1)No driving for one month
2)No lifting more than 10 lbs for at least 10 weeks from the 
date of surgery
3)Please shower daily. Wash surgical incisions with soap and 
water only.
4)Do not apply lotions, creams or ointments to any surgical 
incision.
5)Please call cardiac surgeon immediately if you experience 
fever, excessive weight gain and/or signs of a wound 
infection(erythema, drainage, etc...). Office number is 
___.
6)Call with any additional questions or concerns
 
Followup Instructions:
___